US05346904
3. rac-cis-8.9-Dimethoxy-1,2,3,4,4a,10b-hexahydro-2-methyl-6-[4-methyl-3-(p-toluenesulphonamido)-phenyl]-benzo[c][1,6]naphthyridine
3.9 g rac-cis-3-(3,4-dimethoxyphenyl)-1-methyl-4-[4-methyl-3-(p-toluene-sulphonamido)-benzamido]-piperidine are heated at the boiling point under reflux in 50 ml phosphorus oxytrichloride for 3 h. After the excess phosphorus oxytrichloride has been distilled off, the residue is partitioned between methylene chloride and 2 N sodium hydroxide solution, and the organic phase is washed with water and dried over sodium sulphate. After the methylene chloride has been distilled off, the residue is purified by silica gel chromatography. The main product fraction which has been separated off is concentrated and the solid residue is recrystallized from ethyl acetate/petroleum ether. 2.6 g of the title compound are obtained as yellowish crystals of m.p. 206°-210° C. (decomp.).

reactant | rac-cis-3-(3,4-dimethoxyphenyl)-1-methyl-4-[4-methyl-3-(p-toluene-sulphonamido)-benzamido]-piperidine | 3.9 g | COC=1C=C(C=CC1OC)[C@@H]1CN(CC[C@@H]1NC(C1=CC(=C(C=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C29H35N3O5S
solvent | phosphorus oxytrichloride | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | rac-cis-8.9-Dimethoxy-1,2,3,4,4a,10b-hexahydro-2-methyl-6-[4-methyl-3-(p-toluenesulphonamido)-phenyl]-benzo[c][1,6]naphthyridine | 2.6 g | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC(=C(C=C2)C)NS(=O)(=O)C2=CC=C(C=C2)C)C1)OC | C29H33N3O4S
